US08466290B2
6-chloro-N-[5-(2-furyl)-1,3,4-oxadiazol-2-yl]-2-(2-thienyl)-4-quinolinecarboxamide (compound Ia-30)
The title compound was synthesized according to the synthesis method of a compound Ia-46 described later using commercially available 6-chloro-2-(2-thienyl)-4-quinolinecarboxylic acid, HBTU, and HOBt instead of 2-(4-fluorophenyl)-4-quinolinecarboxylic acid, HATU, and HOAt, respectively.

reactant | 6-chloro-2-(2-thienyl)-4-quinolinecarboxylic acid | ClC=1C=C2C(=CC(=NC2=CC1)C=1SC=CC1)C(=O)O | C14H8ClNO2S
reactant | HBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAt | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
product | 6-chloro-N-[5-(2-furyl)-1,3,4-oxadiazol-2-yl]-2-(2-thienyl)-4-quinolinecarboxamide | ClC=1C=C2C(=CC(=NC2=CC1)C=1SC=CC1)C(=O)NC=1OC(=NN1)C=1OC=CC1 | C20H11ClN4O3S
